US08497264B2
In a 350-mL resealable vessel, the (S)-2′-bromo-7′-iodospiro[oxazolidine-4,9′-xanthen]-2-one (11 g, 24.02 mmol) was dissolved in 1:1 MeOH-dioxane (160 mL). Aqueous KOH (5 M, 48.0 mL, 240 mmol) was added. The vessel was sealed and placed in a 105° C. oil bath. After 24 h, the reaction was concentrated to remove the MeOH and most of the dioxane. The residue was diluted with water (200 mL) and the aqueous phase was extracted with 5% MeOH-DCM (4×200 mL). The organics were combined, washed with dilute brine (35 mL), dried over sodium sulfate and concentrated. The residue was purified by chromatography (1.5% MeOH/DCM) to afford (S)-(9-amino-2-bromo-7-iodo-9H-xanthen-9-yl)methanol (3.84 g, 8.89 mmol).

reactant | (S)-2′-bromo-7′-iodospiro[oxazolidine-4,9′-xanthen]-2-one | 24.02 mmol, 11 g | BrC1=CC=2[C@@]3(C4=CC(=CC=C4OC2C=C1)I)NC(OC3)=O | C15H9BrINO3
reactant | KOH | 240 mmol, 5 M, 48.0 mL | [OH-].[K+]
solvent | MeOH dioxane | 160 mL | CO.O1CCOCC1
product | (S)-(9-amino-2-bromo-7-iodo-9H-xanthen-9-yl)methanol | 8.89 mmol, 3.84 g | N[C@@]1(C2=CC(=CC=C2OC=2C=CC(=CC12)Br)I)CO | C14H11BrINO2
